US06900336B2
7-{(R)-2-[(E)-3-(5-Bromo-furan-2-yl)-3-oxo-propenyl]-5-oxo-pyrrolidin-1-yl}-heptanoic acid ethyl ester was dissolved in anhydrous 1,4-dioxane (3 mL) under an argon atmosphere treated with potassium carbonate (130 mg, 0.94 mmol), 2-methylphenyl boronic acid (64 mg, 0.47 mmol), and bis(triphenylphosphine)palladiumdichloride (33 mg, 0.047 mmol). The yellow suspension was warmed to 55° C. for 15 hours and then the volatiles were removed. The mixture was then dissolved in methanol (10 mL) and stirred with sodium borohydride (ca. 35 mg, 0.9 mmol) for 20 minutes at ambient temperature and treated with acetone (1 mL). After removal of the volatiles, the residue was treated with methanol and the volatiles were removed once again. The residue was loaded onto 1 mm thick silica plates and the plates were developed two-times with 3% iso-propanol in dichloromethane. 7-{(S)-2-[3-hydroxy-3-(5-o-tolyl-furan-2-yl)-propyl]-5-oxo-pyrrolidin-1-yl}-heptanoic acid ethyl ester (54 mg) was obtained as an oil.

reactant | 7-{(R)-2-[(E)-3-(5-Bromo-furan-2-yl)-3-oxo-propenyl]-5-oxo-pyrrolidin-1-yl}-heptanoic acid ethyl ester | C(C)OC(CCCCCCN1[C@H](CCC1=O)\C=C\C(=O)C=1OC(=CC1)Br)=O | C20H26BrNO5
reactant | potassium carbonate | 0.94 mmol, 130 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methylphenyl boronic acid | 0.47 mmol, 64 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | sodium borohydride | 0.9 mmol, ca. 35 mg | [BH4-].[Na+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladiumdichloride | 0.047 mmol, 33 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | acetone | 1 mL | CC(=O)C | C3H6O
product | 7-{(S)-2-[3-hydroxy-3-(5-o-tolyl-furan-2-yl)-propyl]-5-oxo-pyrrolidin-1-yl}-heptanoic acid ethyl ester | 54 mg | C(C)OC(CCCCCCN1[C@H](CCC1=O)CCC(C=1OC(=CC1)C1=C(C=CC=C1)C)O)=O | C27H37NO5
